US07820665B2
Step 2. N-(6-bromo-1-(pyridin-2-yl)-1H-benzo[d]imidazol-2-yl)acetamide
To a 250 mL round-bottomed flask was added 6-bromo-1-(pyridin-2-yl)-1H-benzo[d]imidazol-2-amine (1.00 g, 3.46 mmol), dichloromethane (35 mL), pyridine (0.419 mL, 5.19 mmol), acetic anhydride (0.343 mL, 3.63 mmol) and DMAP (0.0042 g, 0.035 mmol). The mixture was stirred at 25° C. for 2.5 days. The mixture was concentrated and taken up in MeOH/CH2Cl2 and then concentrated onto silica. Purification by silica gel chromatography (0.5 to 4.0% MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as a pink solid (0.673 g, 58%). MS (ESI, positive ion) m/z: 331 (M(79Br)+1).

reactant | 6-bromo-1-(pyridin-2-yl)-1H-benzo[d]imidazol-2-amine | 3.46 mmol, 1.00 g | BrC=1C=CC2=C(N(C(=N2)N)C2=NC=CC=C2)C1 | C12H9BrN4
reactant | pyridine | 5.19 mmol, 0.419 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 3.63 mmol, 0.343 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.035 mmol, 0.0042 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N-(6-bromo-1-(pyridin-2-yl)-1H-benzo[d]imidazol-2-yl)acetamide | 0.673 g, 58% | BrC=1C=CC2=C(N(C(=N2)NC(C)=O)C2=NC=CC=C2)C1 | C14H11BrN4O
